US04820727
Step (3) N-(Ethoxycarbonyl)-N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine
A suspension of N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine, 1,1-dimethylethyl ester (2.40 g, 5.07 mmol) in formic acid (90 mL) was stirred at room temperature under a dry nitrogen atmosphere. After 10 minutes, dissolution occurred. After 11/2 hours, the reaction solution was diluted with water (1 L). The resultant suspension was stirred rapidly for 45 minutes, then filtered. The solid was washed with water (3×20 mL), air dried, and recrystallized from benzene:petroleum ether to provide the title compound as white needles (1.21 g, 57%), m.p. 135.5°-138° C.

reactant | N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine, 1,1-dimethylethyl ester | 5.07 mmol, 2.40 g | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)OC(C)(C)C)C(=O)OCC | C22H23F4NO6
solvent | formic acid | 90 mL | C(=O)O | CH2O2
solvent | water | 1 L | O | H2O
product | N-(Ethoxycarbonyl)-N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine | 1.21 g, 57% | C(C)OC(=O)N(CC(=O)O)C(=O)C1=C(C=CC2=C(C(=CC=C12)OC)C(F)(F)F)F | C18H15F4NO6
